US04263037
2-Chloro-5-cyano-2,3-dihydro-3,3-dimethylbenzofuran (I)
Thionyl chloride (9.3 g) in dichloromethane (10 ml) was added dropwise with stirring and cooling to 5-cyano-2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran (11.3 g) prepared as in Example 10 and pyridine (6.2 g) in dichloromethane (60 ml). The mixture was stirred for 2 hours at room temperature prior to washing with water, dilute sodium hydroxide solution and water again, drying over magnesium sulphate and evaporating under vacuum. Recrystallisation from toluene and petroleum ether (bp 80°-100° C.) gave 9.7 g of the title compound, mp 105°-106° C.

reactant | Thionyl chloride | 9.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | 5-cyano-2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran | 11.3 g | C(#N)C=1C=CC2=C(C(C(O2)O)(C)C)C1 | C11H11NO2
reactant | pyridine | 6.2 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 2-Chloro-5-cyano-2,3-dihydro-3,3-dimethylbenzofuran | 9.7 g | ClC1OC2=C(C1(C)C)C=C(C=C2)C#N | C11H10ClNO
